US05380746
2,3-Bis-(5-methoxy- 1H-indol-3-yl)-maleinimide
A solution of 22 mmol ethyl magnesium bromide in 30 ml tetrahydrofuran is mixed at ambient temperature with a solution of 2.8 g (19 mmol) 5-methoxyindole in 50 ml toluene and stirred for 1 hour at ambient temperature. Under an atmosphere of nitrogen, there is then added dropwise thereto a solution of 1.5 g (5.8 mmol) dibromomaleinimide in 20 ml tetrahydrofuran/50 ml toluene and heated under reflux for 20 hours. After cooling, the reaction mixture is decomposed with a saturated aqueous solution of ammonium chloride, the products are extracted with ethyl acetate and the organic phase is dried over anhydrous sodium sulphate. After evaporation, the red residue obtained is triturated with a little methanol and the precipitated red product is filtered off with suction and dried in a vacuum at 0.1 Torr and 100° C. There is obtained 0.9 g (36% of theory) of red crystals; m.p. 336° C. (decomp.); RF=0.30 (toluene/ethanol 10:2 v.v).

reactant | ethyl magnesium bromide | 22 mmol | C(C)[Mg]Br
reactant | 5-methoxyindole | 19 mmol, 2.8 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | dibromomaleinimide | 5.8 mmol, 1.5 g | BrC1=C(C(=O)NC1=O)Br | C4HBr2NO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,3-Bis-(5-methoxy- 1H-indol-3-yl)-maleinimide | COC=1C=C2C(=CNC2=CC1)C=1C(=O)NC(C1C1=CNC2=CC=C(C=C12)OC)=O | C22H17N3O4
